US05858363
Isopropyl 11-hydroxy-3,6,9-trioxa-undecanoate (2).
Sodium (23 g, 1.0 mole) in form of chips was added in portions to triethylene glycol (700 ml) under nitrogen atmosphere. When the sodium had reacted completely, the mixture was cooled to room temperature and bromoacetic acid was added (76 g, 0.5 mole) under stirring. After 18 hours at 100° C. the excess of diethylene glycol was distilled off at about 4 mm Hg. Thereafter isopropyl alcohol (400 ml) and in portions acetyl chloride (51 g, 0.65 mole) were added. After stirring for 18 hours at 65° C. the mixture was cooled to room temperature and neutralized with sodium acetate (3.5 g, 0.15 mole). The mixture was filtered and the filtrate evaporated nearly to dryness, whereupon it was dissolved in water (200 ml). The water phase was extracted with 1,1,1-trichloroethane (3×50ml). The pooled organic phases were washed with water (20 ml). The product was extracted from the pooled water phases with dichloromethane (50 ml) that after evaporation gave an oil.

reactant | Sodium | 1.0 mole, 23 g | [Na] | Na
reactant | triethylene glycol | 700 ml | C(COCCOCCO)O | C6H14O4
reactant | bromoacetic acid | BrCC(=O)O | C2H3BrO2
reactant | acetyl chloride | 0.65 mole, 51 g | C(C)(=O)Cl | C2H3ClO
reactant | sodium acetate | 0.15 mole, 3.5 g | C(C)(=O)[O-].[Na+]
solvent | isopropyl alcohol | 400 ml | C(C)(C)O | C3H8O
product | Isopropyl 11-hydroxy-3,6,9-trioxa-undecanoate | OCCOCCOCCOCC(=O)OC(C)C | C11H22O6
